US08138178B2
To a solution of (R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(2-(5-methyl-1,3,4-oxadiazol-2-yl)ethyl)-6-phenyl-1,3-oxazinan-2-one (490 mg, 1.04 mmol), and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (424 mg, 1.67 mmol) in dry DMSO (20 mL) was added KOAc (326 mg, 3.33 mmol) and Pd(dppf)Cl2 (25.3 mg, 0.031 mmol) under N2 atmosphere. The mixture was warmed at 100° C. for 3 h. After TLC showed the starting material had disappeared, the solid was filtered off, water (50 mL) and EtOAc (50 mL) were added, and the mixture was extracted with EtOAc (3×50 mL). The combined organic layer was washed with brine (50 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified by prep TLC to afford (R)-6-(2-(5-methyl-1,3,4-oxadiazol-2-yl)ethyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one (0.395 g, yield: 73.6%).

reactant | (R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(2-(5-methyl-1,3,4-oxadiazol-2-yl)ethyl)-6-phenyl-1,3-oxazinan-2-one | 1.04 mmol, 490 mg | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CCC=1OC(=NN1)C)=O | C23H24BrN3O3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.67 mmol, 424 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 3.33 mmol, 326 mg | CC(=O)[O-].[K+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
catalyst | Pd(dppf)Cl2 | 0.031 mmol, 25.3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (R)-6-(2-(5-methyl-1,3,4-oxadiazol-2-yl)ethyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 0.395 g, yield: 73.6% | CC1=NN=C(O1)CC[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1 | C29H36BN3O5
